US07217723B2
7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid [2-(4-fluorophenyl)-2-hydroxyethyl]-methyl-amide
From 1-(4-fluorophenyl)-2-methylamino-ethanol (the compound of Preparation Example 17) (433 mg) and 7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonyl chloride (the compound of Preparation Example 7), the title compound (769 mg) was obtained as a colorless amorphous substance, in the same way as Preparation Example 41.

reactant | 1-(4-fluorophenyl)-2-methylamino-ethanol | FC1=CC=C(C=C1)C(CNC)O | C9H12FNO
reactant | 7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonyl chloride | O=C1CCCC2=C1SC=C2S(=O)(=O)Cl | C8H7ClO3S2
product | 7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid [2-(4-fluorophenyl)-2-hydroxyethyl]-methyl-amide | 769 mg | FC1=CC=C(C=C1)C(CN(S(=O)(=O)C=1C2=C(SC1)C(CCC2)=O)C)O | C17H18FNO4S2
